US07858640B2
(S)-2-[3-(2-chloro-4-cyclobutylcarbamoylbenzyl)-2-ethyl-8-fluoro-4-oxo-1,4-dihydroquinolin-5-yloxy]propionic Acid Methyl Ester
The title compound was prepared by the method of Preparation 65c using 2-(2-chloro-4-cyclobutylcarbamoylbenzyl)-3-oxopentanoic acid ethyl ester and (S)-2-(3-amino-4-fluorophenoxy)propionic acid methyl ester.

reactant | 2-(2-chloro-4-cyclobutylcarbamoylbenzyl)-3-oxopentanoic acid ethyl ester | C(C)OC(C(C(CC)=O)CC1=C(C=C(C=C1)C(NC1CCC1)=O)Cl)=O | C19H24ClNO4
reactant | (S)-2-(3-amino-4-fluorophenoxy)propionic acid methyl ester | COC([C@H](C)OC1=CC(=C(C=C1)F)N)=O | C10H12FNO3
product | (S)-2-[3-(2-chloro-4-cyclobutylcarbamoylbenzyl)-2-ethyl-8-fluoro-4-oxo-1,4-dihydroquinolin-5-yloxy]propionic Acid Methyl Ester | COC([C@H](C)OC1=C2C(C(=C(NC2=C(C=C1)F)CC)CC1=C(C=C(C=C1)C(NC1CCC1)=O)Cl)=O)=O | C27H28ClFN2O5
